* POGO block-2 LFO oscillator — HEADLINE f_max = 20 Hz at full rate drive (.tran)
* CLAIM (aux/modulation/lfo-core/spec.md formula; spec block-2 §2 line 67; plugin LFO.hpp:16):
*   The integrator + Schmitt relaxation oscillator runs at
*     f = (R5+R7) / (4 * R7 * R_INT * C_INT)
*   At full rate drive (rate pot wiper at the top, k=1: V_sq drives R1 directly),
*   with R5(R_FB_SQ)=100k, R7(R_HYS)=82k, R_INT(R1)=590k, C_INT(C1)=47nF:
*     f_max = 182k / (4 * 82k * 590k * 47nF) = 182000/9101.4 = 20.0 Hz
*   This is the analog counterpart of plugin LFO.hpp:16  speedHz = 0.05*400^param
*   evaluated at param=1 -> 0.05*400 = 20 Hz.  V_sat CANCELS in the formula (the
*   Schmitt threshold V_H = V_sat*R7/(R5+R7) scales with V_sat), so f is V_sat-free.
*
* This deck builds a REAL hysteretic oscillator (a memoryless B-source cannot oscillate;
* the integrator's capacitor state is what breaks the loop and sustains the triangle).
*
* TOPOLOGY (per spec §2 lines 106-135 / aux/modulation/lfo-core):
*   - Integrator: ideal op-amp Eint, (+) = GND(0), (-) = nsum (virtual ground),
*     out = nvtri (the triangle). R1 (R_INT) from the square drive to nsum; C1 (C_INT)
*     feedback nsum -> nvtri. The inverting integrator gives nvtri = -(1/R1C1) integral(drive).
*     To make V_sq=+Vsat ramp the triangle toward the +threshold, the drive into R1 is the
*     INVERTED square (Bdrv = -V_sq) — equivalent to the spec's sign convention where the
*     square reverses the ramp at each flip.
*   - Schmitt comparator (non-inverting hysteresis, spec lines 125-133): the (+) input sees
*     the divider nplus = V_sq*R7/(R5+R7) (R5=R_FB_SQ from the comparator OUTPUT V_sq, R7=R_HYS
*     from nplus to GND); the (-) input follows the triangle V_tri. The comparator HOLDS state
*     (V_sq) until the ramp crosses nplus, then flips -> the R5/R7 divider flips nplus -> the
*     loop oscillates. Flip threshold V_tri = nplus = +/- V_sat*R7/(R5+R7) = +/-4.96 V.
*
* IDEAL MODELS (justification):
*   - Eint (1e6 VCVS) stands in for the TL072 integrator half: high open-loop gain + the real
*     R1/C1 feedback reproduce the exact virtual-ground integration law f depends on.
*   - Bsq (rail-to-rail comparator B-source) stands in for the TL072 Schmitt half clamped to
*     +/-Vsat: an ideal comparator preserves the flip-timing law (period = 2*V_H*R_INT*C_INT/V_sat
*     per half); the small finite-edge error is absorbed by tol_pct 5.
*   - Bdrv (unity inverter) realizes the integrator drive sign (square reverses the ramp).
* KICK: .ic v(nvtri)=0.1 perturbs the integrator off the metastable 0 so it leaves DC.

.param vsat=11          ; TL072 saturation on +/-12V; CANCELS in f (V_H scales with it)

Bdrv ndrv 0 V = -V(vsq)                                  ; integrator drive = inverted square
Eint nvtri 0 0 nsum 1e6                                  ; integrator op-amp (virtual ground at nsum)
R1 ndrv nsum 590k                                        ; R_INT
C1 nsum nvtri 47nF                                       ; C_INT (feedback)
R5 vsq nplus 100k                                        ; R_FB_SQ: comparator out -> (+) divider top
R7 nplus 0 82k                                           ; R_HYS: (+) divider -> GND
Bsq vsq 0 V = (V(nplus) > V(nvtri)) ? vsat : -vsat       ; Schmitt: (+)=nplus, (-)=V_tri

.ic v(nvtri)=0.1        ; kick off the metastable point
.tran 0.1m 0.6 uic      ; >=10 periods at 20 Hz; fine step for clean edge timing

.control
  run
  * measure one full period from the 2nd to the 3rd upward zero-crossing (skip startup)
  meas tran t1 WHEN v(nvtri)=0 RISE=2
  meas tran t2 WHEN v(nvtri)=0 RISE=3
  let fhz = 1/(t2-t1)
  print fhz
.endc
.end
