* POGO block-2 LFO — Schmitt threshold ratio sets the +/-5 V triangle (.tran)
* CLAIM (spec block-2 §3 lines 238-243; aux/modulation/lfo-core lines 108-112):
*   The triangle peak equals the Schmitt hysteresis threshold:
*     V_H = V_sat * R7/(R5+R7) = V_sat * 82k/182k = 0.4505 * V_sat.
*   With V_sat ~= 11 V this gives V_H = 4.96 V ~= the target +/-5 V triangle (plugin
*   LFO.hpp:20 maps the unit triangle to +/-5 V at the output).
*   The ABSOLUTE +/-5 V depends on V_sat [NV] (the TL072 saturation, an unmeasured device
*   constant), so we check the RATIO V_pk/V_sat = R7/(R5+R7), which is set purely by R5,R7.
*
* DECK: run the same oscillator as lfo_fmax; measure the triangle peak (MAX over the run,
*   past startup) and divide by the deck's known V_sat -> vth_ratio. The peak rides slightly
*   below the ideal threshold (finite comparator edge + integrator overshoot timing), so a
*   3% tolerance covers it.
*
* IDEAL MODELS: same as lfo_fmax (Eint integrator; Bsq rail comparator at +/-Vsat; Bdrv
*   inverter). The comparator clamp at +/-Vsat is what makes V_H = V_sat*R7/(R5+R7) exact.

.param vsat=11          ; V_sat [NV]; the ratio V_pk/V_sat is what we pin (R7/(R5+R7))

Bdrv ndrv 0 V = -V(vsq)
Eint nvtri 0 0 nsum 1e6
R1 ndrv nsum 590k                                        ; R_INT
C1 nsum nvtri 47nF                                       ; C_INT
R5 vsq nplus 100k                                        ; R_FB_SQ (divider top, out -> (+))
R7 nplus 0 82k                                           ; R_HYS  (divider -> GND)
Bsq vsq 0 V = (V(nplus) > V(nvtri)) ? vsat : -vsat

.ic v(nvtri)=0.1
.tran 0.1m 0.6 uic

.control
  run
  meas tran vpk MAX v(nvtri)          ; triangle positive peak over the run
  * divide by the deck's V_sat (literal 11; a .param is not in scope as a .control vector)
  let vth_ratio = vpk/11              ; = R7/(R5+R7), V_sat-free
  print vth_ratio
.endc
.end
